US05840917
3-Formyl-2-thiophenecarboxylic acid (3.12 g) was dissolved in N,N-dimethylformamide (30 ml), and iodoethane (1.76 ml) and potassium carbonate (2.76 g) were added. The mixture was stirred at room temperature for 15 hours and poured into water. The mixture was extracted with ethyl acetate, washed with 5% aqueous potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 3-formyl-2-thiophenecarboxylic acid ethyl ester (2.91 g). 3-Formyl-2-thiphenecarboxylic acid ethyl ester (1.84 g) in methylene chloride (10 ml) was slowly added dropwise to diethylaminosulfur trifluoride (DAST) (1.45 ml) in methylene chloride (10 ml) at room temperature. The mixture was stirred at room temperature for 3 hours, and saturated aqueous sodium bicarbonate was added. The organic layer was collected, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-difluoromethyl-2-thiophenecarboxylic acid ethyl ester (1.58 g). 3-Difluoromethyl-2-thiophenecarboxylic acid ethyl ester was dissolved in a mixture of ethanol (10 ml) and tetrahydrofuran (10 ml), and 1N aqueous sodium hydroxide (11 ml) was added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced ppressure to give 3-difluoromethyl-2-thiophenecarboxylic acid (1.12 g) as crystals.

reactant | 3-Formyl-2-thiophenecarboxylic acid | 3.12 g | C(=O)C1=C(SC=C1)C(=O)O | C6H4O3S
reactant | iodoethane | 1.76 ml | ICC | C2H5I
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-formyl-2-thiophenecarboxylic acid ethyl ester | 2.91 g | C(C)OC(=O)C=1SC=CC1C=O | C8H8O3S
